US06903215B2
Synthesis of 2-(1H-indol-2-ylmethyl)-1,1,1-trifluoro-4-(4-fluorophenyl)-4-methylpentan-2-ol
To a diethyl ether solution of 53 mg of 2-methylindole was added 3 equivalents of n-butyl lithium followed by 90 mg of potassium tert-butoxide (t-BuOK) (solid) at room temperature. The mixture was allowed to stir for 30 minutes. 1,1,1-Trifluoro-4-(4-fluorophenyl)-4-methylpentan-2-one (100 mg) in diethyl ether was then added to the above mixture. The reaction was stirred at room for 1 hour. The reaction was quenched with saturated aqueous ammonium chloride, and extracted three times with EtOAc. The combined organic layers were washed with water, brine, dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was purified by column chromatography to yield 40 mg of the title compound as a foam. Resolution to the (+)- and (−) enantiomers was accomplished by chiral HPLC on a CHIRALCEL® OD™ column, eluting with 10% isopropanol-hexanes.

reactant | 2-methylindole | 53 mg | CC=1NC2=CC=CC=C2C1 | C9H9N
reactant | n-butyl lithium | 3 equivalents | C(CCC)[Li]
reactant | potassium tert-butoxide | 90 mg | CC(C)([O-])C.[K+]
reactant | 1,1,1-Trifluoro-4-(4-fluorophenyl)-4-methylpentan-2-one | 100 mg | FC(C(CC(C)(C)C1=CC=C(C=C1)F)=O)(F)F | C12H12F4O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(1H-indol-2-ylmethyl)-1,1,1-trifluoro-4-(4-fluorophenyl)-4-methylpentan-2-ol | 40 mg | N1C(=CC2=CC=CC=C12)CC(C(F)(F)F)(CC(C)(C)C1=CC=C(C=C1)F)O | C21H21F4NO
